US07138425B2
b) 2-(3-Amino-4-(3-tetrahydrofuranylmethoxy)-5-phenylbenzoxazole
Prepared by the method of Example 47b), from 2-(3-nitro-4-(3-tetrahydrofuranylmethoxy)-5-phenylbenzoxazole (150 mg, 0.36 mmol) and powdered zinc (235 mg, 3.6 mmol) the subtitle compound was obtained (115 mg, 83%). 1H NMR (DMSO) δ 7.98(d, 1H), 7.79(d, 1H), 7.73(m, 2H), 7.65(dd, 1H), 7.54–7.36(m, 5H), 7.02(d, 1H), 4.01(m, 2H), 3.88–3.76(m, 2H), 3.68(m, 1H), 3.59(m, 1H), 2.71(m, 1H), 2.07(m, 1H), 1.70(m, 1H).

reactant | 3-nitro-4-(3-tetrahydrofuranylmethoxy)-5-phenylbenzoxazole | 0.36 mmol, 150 mg | [N+](=O)([O-])N1COC2=C1C(=C(C=C2)C2=CC=CC=C2)OCC2COCC2 | C18H18N2O5
catalyst | zinc | 3.6 mmol, 235 mg | [Zn] | Zn
product | 3-Amino-4-(3-tetrahydrofuranylmethoxy)-5-phenylbenzoxazole | NN1COC2=C1C(=C(C=C2)C2=CC=CC=C2)OCC2COCC2 | C18H20N2O3
